US08877774B2
Step 1. Methyl 4-((3-benzoylphenoxy)methyl)benzoate
To a stirred solution of 3-hydroxybenzophenone (1.00 g, 5.04 mmol) in dimethyl formamide (10 mL), was added potassium carbonate (1.05 g, 7.61 mmol), and the mixture was stirred for 10 minutes at room temperature. Methyl 4-bromobenzoate (1.30 g, 6.05 mmol) in dimethyl formamide (5 mL) was added, and the reaction mixture allowed to stir at room temperature for 16 hours. The reaction mixture was diluted with water and extracted with ethyl acetate. The organic extract was washed with brine, dried (MgSO4), and concentrated under reduced pressure. The crude material was purified by silica gel chromatography eluting with 0-17% ethyl acetate in iso-hexane to afford the title compound (1.64 g, 99%).

reactant | 3-hydroxybenzophenone | 5.04 mmol, 1.00 g | OC=1C=C(C(=O)C2=CC=CC=C2)C=CC1 | C13H10O2
reactant | potassium carbonate | 7.61 mmol, 1.05 g | C([O-])([O-])=O.[K+].[K+]
reactant | Methyl 4-bromobenzoate | 6.05 mmol, 1.30 g | BrC1=CC=C(C(=O)OC)C=C1 | C8H7BrO2
solvent | dimethyl formamide | 10 mL | CN(C=O)C | C3H7NO
solvent | dimethyl formamide | 5 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | Methyl 4-((3-benzoylphenoxy)methyl)benzoate | 1.64 g, 99% | C(C1=CC=CC=C1)(=O)C=1C=C(OCC2=CC=C(C(=O)OC)C=C2)C=CC1 | C22H18O4
